US06313071B1
A mixture comprising 1.60 g of methyl N-(5-bromo-2-fluorobenzyl)carbamate, 1.40 g of 1-butyn-3-ol, 0.20 g of palladium dichlorobis(triphenylphosphine), 0.10 g of copper(I) iodide and 10 ml of triethylamine, was stirred at 100° C. for 48 hours in an autoclave. The reaction solution was poured into a saturated sodium chloride aqueous solution and extracted with ethyl acetate, followed by washing with water and drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 0.63 g of methyl N-[2-fluoro-5-(3-hydroxy-1-butynyl)benzyl]carbamate as a brown viscous liquid.

reactant | methyl N-(5-bromo-2-fluorobenzyl)carbamate | 1.60 g | BrC=1C=CC(=C(CNC(OC)=O)C1)F | C9H9BrFNO2
reactant | 1-butyn-3-ol | 1.40 g | C#CC(C)O | C4H6O
reactant | sodium chloride | [Cl-].[Na+]
catalyst | copper(I) iodide | 0.10 g | [Cu]I
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | methyl N-[2-fluoro-5-(3-hydroxy-1-butynyl)benzyl]carbamate | 0.63 g | FC1=C(CNC(OC)=O)C=C(C=C1)C#CC(C)O | C13H14FNO3
